US05759580
(±)-[2R*[1S*,5S*(S*)]]+[2R*[1S*,5R*(R*)]]-α,α'[iminobis(methylene)]bis[6-fluoro-3,4-dihydro-2H-1-benzopyran-2-methanol] (142 g) was converted into the hydrochloric acid salt in ethanol (1000 ml). The crystals were filtered off and crystallized from ethanol. The second fraction of the crystallization was recrystallized from ethanol, yielding 10.3 g (6.6%) of (±)-[2R*[1S*,5S*(S*)]]-α,α'[iminobis(methylene)]bis[6-fluoro-3,4-dihydro-2H-1-benzopyran-2-methanol]hydrochloride; mp. 224.9° C. nebivolol hydrochloride (crystalline compound 1).

reactant | α,α'[iminobis(methylene)]bis[6-fluoro-3,4-dihydro-2H-1-benzopyran-2-methanol] | 142 g | N(CC(O)C1OC2=C(CC1)C=C(C=C2)F)CC(O)C2OC1=C(CC2)C=C(C=C1)F | C22H25F2NO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | α,α'[iminobis(methylene)]bis[6-fluoro-3,4-dihydro-2H-1-benzopyran-2-methanol]hydrochloride | Cl.N(CC(O)C1OC2=C(CC1)C=C(C=C2)F)CC(O)C2OC1=C(CC2)C=C(C=C1)F | InChI=1S/C22H25F2NO4.ClH/c23-15-3-7-19-13(9-15)1-5-21(28-19)17(26)11-25-12-18(27)22-6-2-14-10-16(24)4-8-20(14)29-22;/h3-4,7-10,17-18,21-22,25-27H,1-2,5-6,11-12H2;1H
